data/rdb19/train.csv
rxn,smiles,ea
2862,[C:16]([O:17][O:18])([H:19])([H:20])[H:21].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:14])[H:15])([H:13])[O:18][O:17][C:16]([H:19])([H:20])[H:21])([H:11])[H:12])([H:8])([H:9])[H:10],24.11640566866845
1118,[C:14]([C:15](=[O:16])[O:17][C:18](=[C:19]([H:24])[H:25])[H:23])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:19]([C:18]([O:17][C:15]([C:14]([H:20])([H:21])[H:22])=[O:16])[H:23])([H:24])[H:25])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],14.485408368636854
2489,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[O:24][H:25]>>[C:1]([H:10])([H:11])([H:12])[O:24][H:25].[C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:15])([H:13])[H:14],45.646322402346414
4195,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([O:4][C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],30.68598284968175
4024,[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])[H:10])([H:11])([H:12])[H:13].[C:20]([O:21][C:22](=[C:23]([H:28])[H:29])[H:27])([H:24])([H:25])[H:26]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])([H:10])[H:27])([H:11])([H:12])[H:13].[C:20]([O:21][C:22]=[C:23]([H:28])[H:29])([H:24])([H:25])[H:26],24.084067460440565
3040,[C:16]([C:17]([C:18]([H:19])[O:20][C:21]([H:27])([H:28])[H:29])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7][H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][C:18]([C:17]([C:16]([H:22])([H:23])[H:24])([H:25])[H:26])([H:19])[O:20][C:21]([H:27])([H:28])[H:29],28.751865989586804
1834,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([C:16]([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:11])[H:12])([H:8])([H:9])[H:10],65.02994888887042
4436,[C:13]([O:14][C:15]([C:16]([H:24])([H:25])[H:26])([C:17]([H:18])[H:19])[H:23])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[C:17]([C:15]([O:14][C:13]([H:20])([H:21])[H:22])([C:16]([H:24])([H:25])[H:26])[H:23])([H:18])[H:19])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9],12.116419152123854
732,[C:19]([C:20]([H:21])[H:22])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19](=[C:20]([H:21])[H:22])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]=[O:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:7]([H:17])([H:18])[H:23],55.61602263111854
4484,[C:13]([C:14]([C:15]([H:16])[c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]=[O:5])([H:7])([H:8])[H:9].[O:6]([H:12])[C:15]([C:14]([C:13]([H:23])([H:24])[H:25])([H:26])[H:27])([H:16])[c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32],55.356192033039406
216,[C:12]([C:13](=[O:14])[O:15][C:16](=[C:17]([H:22])[H:23])[H:21])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:7])[H:8].[H:6][C:17]([C:16]([O:15][C:13]([C:12]([H:18])([H:19])[H:20])=[O:14])[H:21])([H:22])[H:23],37.09730201301864
1686,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:18]1([H:26])[C:17]([C:16](=[C:15]([H:23])[H:24])[H:25])[C:22]([H:30])=[C:21]([H:29])[C:20]([H:28])=[C:19]1[H:27])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],17.16241538862232
